US08017607B2
To a solution of [1-(3-chloro-phenyl)-meth-(E)-ylidene]-methyl-amine (0.77 g, 5.00 mmol) and (Z)-2-(4-chloro-2-fluoro-phenyl)-5,5-dimethyl-hex-2-enenitrile (1.72 g, 5.00 mmol) in DMSO (5 mL) was added KOH powder (0.56 g, 10.00 mmol) in one portion. The mixture was stirred at rt overnight. The reaction mixture was diluted with water and extracted with EtOAc three times (3×50 mL). The combined organic layers were washed with water and brine and dried over Na2SO4, and concentrated. The residue was purified by flash column (SiO2, 1%-15% of EtOAc in hexanes) after concentration to give rac-(2S,3S,4S)-2-(3-chloro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (0.73 g, 36.1%); HRMS (ES+) m/z Calcd for C22H23Cl2FN2+H [(M+H)+]: 405.1295, found: 405.1292, rac-(2S,3S,4R)-4-(4-chloro-2-fluoro-phenyl)-2-(3-chloro-phenyl)-3-(2,2-dimethyl-propyl)-pyrrolidine (0.0.42 g, 20.8%); HRMS (ES+) m/z Calcd for C22H23Cl2FN2+H [(M+H)+]: 405.1295, found: 405.1294, and (2S,3R,4R)-4-(4-chloro-2-fluoro-phenyl)-2-(3-chloro-phenyl)-3-(2,2-dimethyl-propyl)-pyrrolidine (0.42 g, 20.8%); HRMS (ES+) m/z Calcd for C22H23Cl2FN2+H [(M+H)+]: 405.1295, found: 405.1294.

reactant | [1-(3-chloro-phenyl)-meth-(E)-ylidene]-methyl-amine | 5.00 mmol, 0.77 g | ClC=1C=C(C=CC1)\C=N\C | C8H8ClN
reactant | (Z)-2-(4-chloro-2-fluoro-phenyl)-5,5-dimethyl-hex-2-enenitrile | 5.00 mmol, 1.72 g | ClC1=CC(=C(C=C1)/C(/C#N)=C/CC(C)(C)C)F | C14H15ClFN
reactant | KOH | 10.00 mmol, 0.56 g | [OH-].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | rac-(2S,3S,4S)-2-(3-chloro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.73 g, 36.1% | ClC=1C=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C | C22H23Cl2FN2
